US04886835
The procedure is as in Example 29 for the preparation of ethyl (4-methylbenzylthio)acetate, starting with 1-chloromethyl-4-phenoxybenzene (21.5 g), a 2M ethanolic solution of sodium ethylate (50 cc) and ethyl 2-mercaptoacetate (12.2 g) in ethanol (200 cc). Ethyl (3-phenoxybenzylthio)acetate (28.8 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (4-methylbenzylthio)acetate | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
reactant | 1-chloromethyl-4-phenoxybenzene | 21.5 g | ClCC1=CC=C(C=C1)OC1=CC=CC=C1 | C13H11ClO
reactant | sodium ethylate | 50 cc | CC[O-].[Na+]
reactant | ethyl 2-mercaptoacetate | 12.2 g | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 200 cc | C(C)O | C2H6O
product | Ethyl (3-phenoxybenzylthio)acetate | 28.8 g | O(C1=CC=CC=C1)C=1C=C(CSCC(=O)OCC)C=CC1 | C17H18O3S
